US08557922B2
1.00 g (51.0 mmol) of 3,5-dinitrobenzylalcohol, 2.00 g (51.0 mmol) of (2E)-3-(4-{[4-(4,4,4-trifluorobutoxy)benzoyl]oxy}phenyl)acrylic acid, 62 mg (0.51 mmol) of 4-Dimethylaminopyridine are dissolved in 10 ml of dichloromethane. 1.07 g (56.0 mmol) of N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC hydrochloride) are added at 0° C. The solution is stirred for 1 h at 0° C. and allowed to stir at room temperature overnight. After 22 hours at room temperature the reaction mixture is partitioned between dichloromethane and water. The organic phase is washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation to yield 3,5-dinitrobenzyl (2E)3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}acrylate 2.1 g as colorless crystals.

reactant | 3,5-dinitrobenzylalcohol | 51.0 mmol, 1.00 g | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
reactant | (2E)-3-(4-{[4-(4,4,4-trifluorobutoxy)benzoyl]oxy}phenyl)acrylic acid | 51.0 mmol, 2.00 g | FC(CCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)/C=C/C(=O)O)C=C1)(F)F | C20H17F3O5
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 56.0 mmol, 1.07 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-Dimethylaminopyridine | 0.51 mmol, 62 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3,5-dinitrobenzyl (2E)3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}acrylate | 2.1 g | FC(CCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)/C=C/C(=O)OCC2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])C=C1)(F)F | C27H21F3N2O9
